US05792766
A mixture of 2-bromo-2'-nitroacetophenone (18 g), 4-methoxybenzamidine (20 g), and silica gel (20 g) in acetonitrile (500 ml) is heated at 40° C. for 24 hours. The reaction is evaporated and the residue put on a layer of silica gel and eluted with 50% ethyl acetate/hexane (1500 ml). The solution is evaporated under reduced pressure to approximately 250 ml and extracted with 5% HCl (3×250 ml) . The combined aqueous solution is basified with K2CO3 and extracted with ethyl acetate (3×400 ml) to afford 2-(4-methoxyphenyl)-4-(2-nitrophenyl)-imidazole (17 g) as a dark yellow oil which is used in the next step without further purification.

reactant | 2-bromo-2'-nitroacetophenone | 18 g | BrCC(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | 4-methoxybenzamidine | 20 g | COC1=CC=C(C(=N)N)C=C1 | C8H10N2O
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 2-(4-methoxyphenyl)-4-(2-nitrophenyl)-imidazole | 17 g | COC1=CC=C(C=C1)C=1NC=C(N1)C1=C(C=CC=C1)[N+](=O)[O-] | C16H13N3O3
